US08008305B2
N-[2-(4-Chloro-phenyl)-ethyl]-6-(4-methyl-piperazin-1-yl)-4-trifluoromethyl-nicotinamide
In analogy to example 1 methyl 6-chloro-4-(trifluoromethyl)nicotinate was reacted with N-methylpiperazine and then, using 4-chlorophenethylamine in the coupling step, converted to N-[2-(4-chloro-phenyl)-ethyl]-6-(4-methyl-piperazin-1-yl)-4-trifluoro-methyl-nicotinamide. Off-white solid. MS (ISP): 427.2 ([M+H]+)

reactant | methyl 6-chloro-4-(trifluoromethyl)nicotinate | ClC1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C8H5ClF3NO2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 4-chlorophenethylamine | ClC1=CC=C(CCN)C=C1 | C8H10ClN
product | N-[2-(4-Chloro-phenyl)-ethyl]-6-(4-methyl-piperazin-1-yl)-4-trifluoromethyl-nicotinamide | ClC1=CC=C(C=C1)CCNC(C1=CN=C(C=C1C(F)(F)F)N1CCN(CC1)C)=O | C20H22ClF3N4O
